US07459562B2
C) (±)-4-(2,5-Difluoro-4-(3-oxo-3-(1-phenylethylamino)propanamido)-phenoxy)picolinamide
To a homogeneous mixture of 3-(4-(2-carbamoylpyridin-4-yloxy)-2,5-difluorophenylamino)-3-oxopropanoic acid (89 mg, 0.25 mmol) and (±)-1-phenyl-ethanamine (Aldrich, 0.05 mL, 0.38 mmol) in DMF (3 mL) was added DIPEA (0.07 mL, 0.38 mmol) and O-benzotriazol-1-yl-N,N,N′,N′-bis(tetramethylene)uranium hexafluorophosphate (TBTU) (121 mg, 0.38 mmol). The resulting solution was stirred for 15 hours before being quenched with 10% LiCl (aq). The mixture was partitioned between EtOAc and 10% LiCl (aq), the layers separated, and the aqueous layer extracted with EtOAc. The combined organic layers were washed twice with 10% LiCl (aq), then concentrated in vacuo. The residue was purified by silica gel chromatography (eluting with 1:3 hexane/EtOAc) and the appropriate fractions were concentrated in vacuo to afford the title compound (42 mg, 37%). HRMS(ESI+), 455.1532 (M+H)+ calcd., 455.1528 (M+H)+ found.

reactant | 3-(4-(2-carbamoylpyridin-4-yloxy)-2,5-difluorophenylamino)-3-oxopropanoic acid | 0.25 mmol, 89 mg | C(N)(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(CC(=O)O)=O)F | C15H11F2N3O5
reactant | (±)-1-phenyl-ethanamine | 0.38 mmol, 0.05 mL | C1(=CC=CC=C1)C(C)N | C8H11N
reactant | DIPEA | 0.38 mmol, 0.07 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (±)-4-(2,5-Difluoro-4-(3-oxo-3-(1-phenylethylamino)propanamido)-phenoxy)picolinamide | 42 mg, 37% | FC1=C(OC2=CC(=NC=C2)C(=O)N)C=C(C(=C1)NC(CC(NC(C)C1=CC=CC=C1)=O)=O)F | C23H20F2N4O4
